data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.202201155_sup_1.json
{"doi": "10.1002_adsc.202201155_sup_1", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Cobalt-catalyzed electrochemical C–H/N–H annulation of 8-aminoquinoline benzamides with alkenes/alkynes to form isoquinolinones", "mechanism_family": ["electrocatalysis_inner_sphere"], "electrochemical_role": "Anodic oxidation regenerates the active high-valent Co(III)/Co(IV) species from Co(II) after C–H metalation, enabling catalytic turnover", "key_intermediates": [{"name": "Co(III)-amide complex from 8-aminoquinoline benzamide coordination", "smiles": null, "role": "reactive"}, {"name": "five-membered cobaltacycle from C–H activation", "smiles": null, "role": "reactive"}, {"name": "alkene-inserted Co(III) alkyl intermediate", "smiles": null, "role": "transient"}, {"name": "Co(II) species after reductive elimination", "smiles": null, "role": "resting_state"}], "electron_flow": "Co(II)(acac)2 coordinates the benzamide N–H (deprotonated by NaOPiv) and undergoes CMD-type ortho C–H metalation; alkene insertion and C–N reductive elimination give the isoquinolinone with release of Co(I/II), which is reoxidized at the GF anode to regenerate the active Co(III) catalyst.", "rate_determining_step": "Not the C–H cleavage step (kH/kD = 1.2 indicates C–H activation is not rate-limiting)", "probe_reagents": [{"name": "[D5]-benzamide 1a", "smiles": null, "purpose": "KIE", "observation": "Parallel reactions gave 3aa (86%) and [D4]-3aa (80%) with kH/kD = 1.2, indicating C–H cleavage is not rate-determining"}, {"name": "D-labeled substrate (H/D exchange)", "smiles": null, "purpose": "isotope_label", "observation": "H/D exchange experiment performed to probe reversibility of C–H metalation"}], "evidence_types_used": ["KIE", "H/D_labeling", "product_isotope_distribution"], "evidence_strength": "medium", "notes": "Mechanism inferred from standard Co(III)/8-aminoquinoline-directed C–H activation paradigm combined with anodic reoxidation; only KIE and H/D exchange probes shown in the provided pages. No radical traps or CV data presented here."}
